### PR TITLE
`N` forms a semiring

### PR DESCRIPTION
**Pull request by pi8027**
I was trying to add a proper support for semirings in Algebra Tactics (on top of math-comp/algebra-tactics#71), and then found that this semiring instance would be useful for that.

I also wanted to add morphism instances for `nat_of_bin` and `bin_of_nat`, but it requires math-comp/math-comp#1031. Maybe I can just copy instances for `nat` from math-comp/math-comp#1031 to here.

### CODE REVIEW

File: theories/ssrZ.v [hunk 1]
```diff
@@ -35,6 +35,31 @@ case=> [[|n]|n] //=.
...
+#[export]
+HB.instance Definition _ := Countable.copy N (can_type nat_of_binK).
+
+#[export]
+HB.instance Definition _ := GRing.isNmodule.Build N
+  Nplus_assoc Nplus_comm Nplus_0_l.
+
+#[export]
+HB.instance Definition _ := GRing.Nmodule_isComSemiRing.Build N
+  Nmult_assoc Nmult_comm Nmult_1_l Nmult_plus_distr_r N.mul_0_l isT.
```
Comment (pi8027) [inline theories/ssrZ.v:57]: Just a remark: The commutative ring instance for `Z` uses `Zmult_plus_distr_*l*` but here I use `Nmult_plus_distr_*r*`. Naming inconsistency in the Coq standard library :/

File: theories/ssrZ.v [hunk 2]
```diff
@@ -134,8 +191,53 @@ Proof. exact: can2_rmorphism Z_of_intK int_of_ZK. Qed.
...
 Module Exports. HB.reexport. End Exports.
 
-End ZInstances.
+End Instances.
+
+Export Instances.Exports.
 
-Export ZInstances.Exports.
+Lemma natn n : n%:R%R = n :> nat.
+Proof. by elim: n => // n; rewrite mulrS => ->. Qed.
```
Comment (proux01) [inline theories/ssrZ.v:243]: Note that this is also in math-comp/math-comp#1031 (`natrnE`).

Comment (pi8027) [reply theories/ssrZ.v:243]: BTW, the name `natn` is derived from `intz` in `ssrint.v`.

**Comment by proux01** [comment]
Could you add examples to test the new instances?

**Comment by pi8027** [comment]
Will do.

File: theories/ssrZ.v (hunk 2 above)
Comment (pi8027) [reply theories/ssrZ.v]: Now I think exporting `natn` from `ssrZ.v` (or any other file in mczify) does not make sense. I moved it to `zify_algebra.v` and made it module local.
